US06855698B2
To a solution of 12-[4-deoxy-2-O-benzyl-β-D-glucopyranosyl]-2,3,9,10-tetrafluoro-12,13-dihydro-5H-indolo-[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (0.500 g, 0.79 mmol) in 6 mL of dry DMF, at 5° C. under Ar, was added tert-butyldiphenylsilyl chloride (0.205 mL, 0.79 mmol) and imidazole (0.161 g, 2.37 mmol). After stirring this mixture at room temperature for 20 h it was re-cooled at 5° C. and more tert-butyldiphenylsilyl chloride (0.205 mL, 0.79 mmol) and imidazole (0.161 g, 2.37 mmol) were added. The resulting mixture was stirred at room temperature for 2.5 h and then it was diluted with ethyl acetate, washed (1M NaHCO3, brine), dried (MgSO4) and evaporated. Chromatography (SiO2/20-35% ethyl acetate-hexane) of the residue afforded 12-[4-deoxy-6-O-(tert-butyldiphenylsilyl)-2-O-benzyl-β-D-glucopyranosyl]-2,3,9,10-tetrafluoro-12,13-dihydro-5H-indolo[2,3-a]pyrrolo [3,4-c]carbazole-5,7(6H)-dione (0.474 g, 69%); MS (ESI−) m/e 870 (M−H)−. To a solution of a portion (0.050 g, 0.057 mmol) of this material in 2 mL of dichloromethane was added a suspension of Dess-Martin periodinane (0.048 g, 0.114 mmol) in 3 mL of dichloromethane and the mixture was stirred for 30 min. The mixture was then diluted with ethyl acetate, washed (cold 30% aq. Na2S2O3,1M NaHCO3, H2O, brine), dried (MgSO4) and evaporated. Prep tlc (SiO2/ethyl acetate-hexane, 2:3) of the residue afforded 12-[4-deoxy-6-O-(tert-butyldiphenylsilyl)-2-O-benzyl-3-oxo-β-D-glucopyranosyl]-2,3,9,10-tetrafluoro-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (0.035 g, 70%) as a gum which solidified on standing; MS (ESI−) m/e 868 (M−H)−.

reactant | 12-[4-deoxy-2-O-benzyl-β-D-glucopyranosyl]-2,3,9,10-tetrafluoro-12,13-dihydro-5H-indolo-[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | 0.79 mmol, 0.500 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H](C[C@@H]1O)CO)N1C2=CC(=C(C=C2C=2C3=C(C4=C(C12)NC=1C=C(C(=CC14)F)F)C(NC3=O)=O)F)F | C33H23F4N3O6
reactant | tert-butyldiphenylsilyl chloride | 0.79 mmol, 0.205 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 2.37 mmol, 0.161 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 0.79 mmol, 0.205 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 2.37 mmol, 0.161 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 12-[4-deoxy-6-O-(tert-butyldiphenylsilyl)-2-O-benzyl-β-D-glucopyranosyl]-2,3,9,10-tetrafluoro-12,13-dihydro-5H-indolo[2,3-a]pyrrolo [3,4-c]carbazole-5,7(6H)-dione | 0.474 g, 69% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1C[C@@H]([C@H]([C@@H](O1)N1C2=CC(=C(C=C2C=2C3=C(C4=C(C12)NC=1C=C(C(=CC14)F)F)C(NC3=O)=O)F)F)OCC3=CC=CC=C3)O | C49H41F4N3O6Si
